US05597848
Methyl 4-[4-(1-Azido-2-phenylethyl)phenyl]butyrate
A suspension of 3.30 g of methyl 4-[4-(1-chloro-2-phenylethyl]phenyl]butyrate and 1.35 g of sodium azide in 15 ml of N,N-dimethylformamide was stirred at 100° C. for 3.5 hours. The reaction mixture was added with water and then extracted with ether. The ether layer was washed with water and dried, and then the solvent was removed under reduced pressure to yield 3.10 g of pale brown oil.

reactant | methyl 4-[4-(1-chloro-2-phenylethyl]phenyl]butyrate | 3.30 g | ClC(CC1=CC=CC=C1)C1=CC=C(C=C1)CCCC(=O)OC | C19H21ClO2
reactant | sodium azide | 1.35 g | [N-]=[N+]=[N-].[Na+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | Methyl 4-[4-(1-Azido-2-phenylethyl)phenyl]butyrate | 3.10 g | N(=[N+]=[N-])C(CC1=CC=CC=C1)C1=CC=C(C=C1)CCCC(=O)OC | C19H21N3O2
